US06448242B1
Preparation of 1,2-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]ethane dihydrochloride
Concentrated hydrochloric acid (0.028 ml; 0.34 mmol) was added to a solution of 1,2-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]ethane (84 mg; 0.11 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice. The resultant crude crystals were suspended in methanol and collected by filtration to obtain the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.34 mmol, 0.028 ml | Cl | ClH
reactant | 1,2-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]ethane | 0.11 mmol, 84 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | C42H50N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,2-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]ethane dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | InChI=1S/C42H50N4O8.2ClH/c1-49-35-25-33(26-36(50-2)39(35)53-5)29-7-11-31(12-8-29)41(47)45-21-17-43(18-22-45)15-16-44-19-23-46(24-20-44)42(48)32-13-9-30(10-14-32)34-27-37(51-3)40(54-6)38(28-34)52-4;;/h7-14,25-28H,15-24H2,1-6H3;2*1H
